US08071624B2
N-Cyclohexyl-N-cyclopropyl-1-(phenylsulfonyl)piperidine-3-carboxamide
To a solution of 1-(phenylsulfonyl)piperidine-3-carboxylic acid (20 mg), N-cyclopropylcyclohexanamine (10 mg) and benzotriazol-1-yloxytris(dimethylamino)-phosphonium hexafluorophosphate (36 mg) in DMF (200 μL) was added N,N-diisopropylethylamine (26 μL). The resulting solution was stirred at r.t. for 2 hours and directly purified with prep HPLC. LCMS m/z 391.1 (M+H)+; 803.2 (2M+Na)+.

reactant | 1-(phenylsulfonyl)piperidine-3-carboxylic acid | 20 mg | C1(=CC=CC=C1)S(=O)(=O)N1CC(CCC1)C(=O)O | C12H15NO4S
reactant | N-cyclopropylcyclohexanamine | 10 mg | C1(CC1)NC1CCCCC1 | C9H17N
reactant | benzotriazol-1-yloxytris(dimethylamino)-phosphonium hexafluorophosphate | 36 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 26 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 200 μL | CN(C)C=O | C3H7NO
product | N-Cyclohexyl-N-cyclopropyl-1-(phenylsulfonyl)piperidine-3-carboxamide | C1(CCCCC1)N(C(=O)C1CN(CCC1)S(=O)(=O)C1=CC=CC=C1)C1CC1 | C21H30N2O3S
